*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0806SQ-6N0
* Inductance = 6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0806SQ-6N0_freq port1 port2 PARAMS: Cpar=0.0711pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=5.6
+ R2=0.2448
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=371
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0806SQ-6N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0806SQ-8N9
* Inductance = 8.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0806SQ-8N9_freq port1 port2 PARAMS: Cpar=0.0661pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=3.84
+ R2=0.2478
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=556
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0806SQ-8N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0806SQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-7.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0806SQ-12N_freq port1 port2 PARAMS: Cpar=0.0474pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=43.78
+ R2=0.3408
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=755
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0806SQ-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0806SQ-16N
* Inductance = 16nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-6.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0806SQ-16N_freq port1 port2 PARAMS: Cpar=0.0509pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=260.4
+ R2=0.4258
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=965
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0806SQ-16N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0806SQ-19N
* Inductance = 19nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-5.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0806SQ-19N_freq port1 port2 PARAMS: Cpar=0.0253pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=874.8
+ R2=0.5218
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1185
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 0806SQ-19N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
